US08835631B2
(6) Synthesis of N-{1-[5-(hydroxymethyl)pyridin-2-yl]cyclopropyl}acetamide
1-[5-(tert-Butyldimethylsilanyloxymethyl)pyridin-2-yl]cyclopropylacetamide (156 mg) was dissolved in tetrahydrofuran (2 ml), and a solution (1 mol/1, 1.46 ml) of tetrabutylammonium fluoride in tetrahydrofuran was added thereto. The mixture was stirred at room temperature for 25 min. The solvent was evaporated and the obtained residue was purified by column chromatography (Yamazen HI-FLASH™ COLUMN size L, elution solvent: ethyl acetate/methanol) to give the title compound (109 mg).

reactant | 1-[5-(tert-Butyldimethylsilanyloxymethyl)pyridin-2-yl]cyclopropylacetamide | 156 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)C1(CC1)CC(=O)N | C17H28N2O2Si
reactant | tetrabutylammonium fluoride | 1 mol, 1.46 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-{1-[5-(hydroxymethyl)pyridin-2-yl]cyclopropyl}acetamide | 109 mg | OCC=1C=CC(=NC1)C1(CC1)NC(C)=O | C11H14N2O2
